US04954498
8,8-Dimethyl-2-(2-indolyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one
In a manner analogous to that described in Example 2, from indole-2-carboxylic acid chloride and 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2one (see Example 13 a)), after column chromatography, there was obtained a yield of 45% of theory of the title compound; m.p. 264 -267° C.

reactant | indole-2-carboxylic acid chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2one | CC1(CC(NC2=CC(=C(C=C12)N)N)=O)C | C11H15N3O
product | 8,8-Dimethyl-2-(2-indolyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one | yield of 45% | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C=3NC1=CC=CC=C1C3)=O)C | C20H18N4O
